US05459151
3-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2-(hydroxyimino)-3-oxo-propionic acid methyl ester
To 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-piperidin-1-yl]-3-oxo-propionic acid methyl ester (5.3 mmol, 2.0 g) was added a solution of HCl/Et2O (1N, 55 mL) and isoamyl nitrite (6.36 mmol, 0.854 mL) at room temperature. After 10 minutes, the reaction mixture had become homogenous, and a white precipitate formed after and additional 30 minutes. After 3 hours, the reaction mixture was diluted with EtOAc and washed with H2O. The aqueous phase was extracted with EtOAc, the organics dried (Na2SO2) and concentrated in vacuo. The residue was triturated in Et2O/hexane to yield the title compound as a white solid, mp=159°-160° C. (4.7 mmol, 1.89 g, 88%).

reactant | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-piperidin-1-yl]-3-oxo-propionic acid methyl ester | 5.3 mmol, 2.0 g | COC(CC(=O)N1CCC(CC1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C21H29NO5
reactant | HCl Et2O | 1N, 55 mL | Cl.CCOCC
reactant | isoamyl nitrite | 6.36 mmol, 0.854 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)piperidin-1-yl]-2-(hydroxyimino)-3-oxo-propionic acid methyl ester | COC(C(C(=O)N1CCC(CC1)C1=CC(=C(C=C1)OC)OC1CCCC1)=NO)=O | C21H28N2O6
